*
L1 N064 0 100m
L2 N064 0 200m
L3 N064 0 150m
L4 N064 0 50m
L5 N064 0 100m
L6 N064 0 150m
L7 N064 0 50m
L8 N064 0 50m
L9 N064 0 150m
L10 N064 0 100m
R1 0 N064 100
V1 N001 0 SINE(0 10 1k)
L11 N064 N063 100m
L12 N064 N063 200m
L13 N064 N063 150m
L14 N064 N063 50m
L15 N064 N063 100m
L16 N064 N063 150m
L17 N064 N063 50m
L18 N064 N063 50m
L19 N064 N063 150m
L20 N064 N063 100m
R2 N063 N064 100
L21 N062 N063 100m
L22 N062 N063 200m
L23 N062 N063 150m
L24 N062 N063 50m
L25 N062 N063 100m
L26 N062 N063 150m
L27 N062 N063 50m
L28 N062 N063 50m
L29 N062 N063 150m
L30 N062 N063 100m
R3 N063 N062 100
L31 N062 N061 100m
L32 N062 N061 200m
L33 N062 N061 150m
L34 N062 N061 50m
L35 N062 N061 100m
L36 N062 N061 150m
L37 N062 N061 50m
L38 N062 N061 50m
L39 N062 N061 150m
L40 N062 N061 100m
R4 N061 N062 100
L41 N060 N061 100m
L42 N060 N061 200m
L43 N060 N061 150m
L44 N060 N061 50m
L45 N060 N061 100m
L46 N060 N061 150m
L47 N060 N061 50m
L48 N060 N061 50m
L49 N060 N061 150m
L50 N060 N061 100m
R5 N061 N060 100
L51 N060 N059 100m
L52 N060 N059 200m
L53 N060 N059 150m
L54 N060 N059 50m
L55 N060 N059 100m
L56 N060 N059 150m
L57 N060 N059 50m
L58 N060 N059 50m
L59 N060 N059 150m
L60 N060 N059 100m
R6 N059 N060 100
L61 N058 N059 100m
L62 N058 N059 200m
L63 N058 N059 150m
L64 N058 N059 50m
L65 N058 N059 100m
L66 N058 N059 150m
L67 N058 N059 50m
L68 N058 N059 50m
L69 N058 N059 150m
L70 N058 N059 100m
R7 N059 N058 100
L71 N058 N057 100m
L72 N058 N057 200m
L73 N058 N057 150m
L74 N058 N057 50m
L75 N058 N057 100m
L76 N058 N057 150m
L77 N058 N057 50m
L78 N058 N057 50m
L79 N058 N057 150m
L80 N058 N057 100m
R8 N057 N058 100
L81 N056 N057 100m
L82 N056 N057 200m
L83 N056 N057 150m
L84 N056 N057 50m
L85 N056 N057 100m
L86 N056 N057 150m
L87 N056 N057 50m
L88 N056 N057 50m
L89 N056 N057 150m
L90 N056 N057 100m
R9 N057 N056 100
L91 N056 N055 100m
L92 N056 N055 200m
L93 N056 N055 150m
L94 N056 N055 50m
L95 N056 N055 100m
L96 N056 N055 150m
L97 N056 N055 50m
L98 N056 N055 50m
L99 N056 N055 150m
L100 N056 N055 100m
R10 N055 N056 100
L101 N054 N055 100m
L102 N054 N055 200m
L103 N054 N055 150m
L104 N054 N055 50m
L105 N054 N055 100m
L106 N054 N055 150m
L107 N054 N055 50m
L108 N054 N055 50m
L109 N054 N055 150m
L110 N054 N055 100m
R11 N055 N054 100
L111 N054 N053 100m
L112 N054 N053 200m
L113 N054 N053 150m
L114 N054 N053 50m
L115 N054 N053 100m
L116 N054 N053 150m
L117 N054 N053 50m
L118 N054 N053 50m
L119 N054 N053 150m
L120 N054 N053 100m
R12 N053 N054 100
L121 N052 N053 100m
L122 N052 N053 200m
L123 N052 N053 150m
L124 N052 N053 50m
L125 N052 N053 100m
L126 N052 N053 150m
L127 N052 N053 50m
L128 N052 N053 50m
L129 N052 N053 150m
L130 N052 N053 100m
R13 N053 N052 100
L131 N052 N051 100m
L132 N052 N051 200m
L133 N052 N051 150m
L134 N052 N051 50m
L135 N052 N051 100m
L136 N052 N051 150m
L137 N052 N051 50m
L138 N052 N051 50m
L139 N052 N051 150m
L140 N052 N051 100m
R14 N051 N052 100
L141 N050 N051 100m
L142 N050 N051 200m
L143 N050 N051 150m
L144 N050 N051 50m
L145 N050 N051 100m
L146 N050 N051 150m
L147 N050 N051 50m
L148 N050 N051 50m
L149 N050 N051 150m
L150 N050 N051 100m
R15 N051 N050 100
L151 N050 N049 100m
L152 N050 N049 200m
L153 N050 N049 150m
L154 N050 N049 50m
L155 N050 N049 100m
L156 N050 N049 150m
L157 N050 N049 50m
L158 N050 N049 50m
L159 N050 N049 150m
L160 N050 N049 100m
R16 N049 N050 100
L161 N048 N049 100m
L162 N048 N049 200m
L163 N048 N049 150m
L164 N048 N049 50m
L165 N048 N049 100m
L166 N048 N049 150m
L167 N048 N049 50m
L168 N048 N049 50m
L169 N048 N049 150m
L170 N048 N049 100m
R17 N049 N048 100
L171 N048 N047 100m
L172 N048 N047 200m
L173 N048 N047 150m
L174 N048 N047 50m
L175 N048 N047 100m
L176 N048 N047 150m
L177 N048 N047 50m
L178 N048 N047 50m
L179 N048 N047 150m
L180 N048 N047 100m
R18 N047 N048 100
L181 N046 N047 100m
L182 N046 N047 200m
L183 N046 N047 150m
L184 N046 N047 50m
L185 N046 N047 100m
L186 N046 N047 150m
L187 N046 N047 50m
L188 N046 N047 50m
L189 N046 N047 150m
L190 N046 N047 100m
R19 N047 N046 100
L191 N046 N045 100m
L192 N046 N045 200m
L193 N046 N045 150m
L194 N046 N045 50m
L195 N046 N045 100m
L196 N046 N045 150m
L197 N046 N045 50m
L198 N046 N045 50m
L199 N046 N045 150m
L200 N046 N045 100m
R20 N045 N046 100
L201 N044 N045 100m
L202 N044 N045 200m
L203 N044 N045 150m
L204 N044 N045 50m
L205 N044 N045 100m
L206 N044 N045 150m
L207 N044 N045 50m
L208 N044 N045 50m
L209 N044 N045 150m
L210 N044 N045 100m
R21 N045 N044 100
L211 N044 N043 100m
L212 N044 N043 200m
L213 N044 N043 150m
L214 N044 N043 50m
L215 N044 N043 100m
L216 N044 N043 150m
L217 N044 N043 50m
L218 N044 N043 50m
L219 N044 N043 150m
L220 N044 N043 100m
R22 N043 N044 100
L221 N042 N043 100m
L222 N042 N043 200m
L223 N042 N043 150m
L224 N042 N043 50m
L225 N042 N043 100m
L226 N042 N043 150m
L227 N042 N043 50m
L228 N042 N043 50m
L229 N042 N043 150m
L230 N042 N043 100m
R23 N043 N042 100
L231 N042 N041 100m
L232 N042 N041 200m
L233 N042 N041 150m
L234 N042 N041 50m
L235 N042 N041 100m
L236 N042 N041 150m
L237 N042 N041 50m
L238 N042 N041 50m
L239 N042 N041 150m
L240 N042 N041 100m
R24 N041 N042 100
L241 N040 N041 100m
L242 N040 N041 200m
L243 N040 N041 150m
L244 N040 N041 50m
L245 N040 N041 100m
L246 N040 N041 150m
L247 N040 N041 50m
L248 N040 N041 50m
L249 N040 N041 150m
L250 N040 N041 100m
R25 N041 N040 100
L251 N040 N039 100m
L252 N040 N039 200m
L253 N040 N039 150m
L254 N040 N039 50m
L255 N040 N039 100m
L256 N040 N039 150m
L257 N040 N039 50m
L258 N040 N039 50m
L259 N040 N039 150m
L260 N040 N039 100m
R26 N039 N040 100
L261 N038 N039 100m
L262 N038 N039 200m
L263 N038 N039 150m
L264 N038 N039 50m
L265 N038 N039 100m
L266 N038 N039 150m
L267 N038 N039 50m
L268 N038 N039 50m
L269 N038 N039 150m
L270 N038 N039 100m
R27 N039 N038 100
L271 N038 N037 100m
L272 N038 N037 200m
L273 N038 N037 150m
L274 N038 N037 50m
L275 N038 N037 100m
L276 N038 N037 150m
L277 N038 N037 50m
L278 N038 N037 50m
L279 N038 N037 150m
L280 N038 N037 100m
R28 N037 N038 100
L281 N036 N037 100m
L282 N036 N037 200m
L283 N036 N037 150m
L284 N036 N037 50m
L285 N036 N037 100m
L286 N036 N037 150m
L287 N036 N037 50m
L288 N036 N037 50m
L289 N036 N037 150m
L290 N036 N037 100m
R29 N037 N036 100
L291 N036 N035 100m
L292 N036 N035 200m
L293 N036 N035 150m
L294 N036 N035 50m
L295 N036 N035 100m
L296 N036 N035 150m
L297 N036 N035 50m
L298 N036 N035 50m
L299 N036 N035 150m
L300 N036 N035 100m
R30 N035 N036 100
L301 N034 N035 100m
L302 N034 N035 200m
L303 N034 N035 150m
L304 N034 N035 50m
L305 N034 N035 100m
L306 N034 N035 150m
L307 N034 N035 50m
L308 N034 N035 50m
L309 N034 N035 150m
L310 N034 N035 100m
R31 N035 N034 100
L311 N034 N033 100m
L312 N034 N033 200m
L313 N034 N033 150m
L314 N034 N033 50m
L315 N034 N033 100m
L316 N034 N033 150m
L317 N034 N033 50m
L318 N034 N033 50m
L319 N034 N033 150m
L320 N034 N033 100m
R32 N033 N034 100
L321 N032 N033 100m
L322 N032 N033 200m
L323 N032 N033 150m
L324 N032 N033 50m
L325 N032 N033 100m
L326 N032 N033 150m
L327 N032 N033 50m
L328 N032 N033 50m
L329 N032 N033 150m
L330 N032 N033 100m
R33 N033 N032 100
L331 N032 N031 100m
L332 N032 N031 200m
L333 N032 N031 150m
L334 N032 N031 50m
L335 N032 N031 100m
L336 N032 N031 150m
L337 N032 N031 50m
L338 N032 N031 50m
L339 N032 N031 150m
L340 N032 N031 100m
R34 N031 N032 100
L341 N030 N031 100m
L342 N030 N031 200m
L343 N030 N031 150m
L344 N030 N031 50m
L345 N030 N031 100m
L346 N030 N031 150m
L347 N030 N031 50m
L348 N030 N031 50m
L349 N030 N031 150m
L350 N030 N031 100m
R35 N031 N030 100
L351 N030 N029 100m
L352 N030 N029 200m
L353 N030 N029 150m
L354 N030 N029 50m
L355 N030 N029 100m
L356 N030 N029 150m
L357 N030 N029 50m
L358 N030 N029 50m
L359 N030 N029 150m
L360 N030 N029 100m
R36 N029 N030 100
L361 N028 N029 100m
L362 N028 N029 200m
L363 N028 N029 150m
L364 N028 N029 50m
L365 N028 N029 100m
L366 N028 N029 150m
L367 N028 N029 50m
L368 N028 N029 50m
L369 N028 N029 150m
L370 N028 N029 100m
R37 N029 N028 100
L371 N028 N027 100m
L372 N028 N027 200m
L373 N028 N027 150m
L374 N028 N027 50m
L375 N028 N027 100m
L376 N028 N027 150m
L377 N028 N027 50m
L378 N028 N027 50m
L379 N028 N027 150m
L380 N028 N027 100m
R38 N027 N028 100
L381 N026 N027 100m
L382 N026 N027 200m
L383 N026 N027 150m
L384 N026 N027 50m
L385 N026 N027 100m
L386 N026 N027 150m
L387 N026 N027 50m
L388 N026 N027 50m
L389 N026 N027 150m
L390 N026 N027 100m
R39 N027 N026 100
L391 N026 N025 100m
L392 N026 N025 200m
L393 N026 N025 150m
L394 N026 N025 50m
L395 N026 N025 100m
L396 N026 N025 150m
L397 N026 N025 50m
L398 N026 N025 50m
L399 N026 N025 150m
L400 N026 N025 100m
R40 N025 N026 100
L401 N024 N025 100m
L402 N024 N025 200m
L403 N024 N025 150m
L404 N024 N025 50m
L405 N024 N025 100m
L406 N024 N025 150m
L407 N024 N025 50m
L408 N024 N025 50m
L409 N024 N025 150m
L410 N024 N025 100m
R41 N025 N024 100
L411 N024 N023 100m
L412 N024 N023 200m
L413 N024 N023 150m
L414 N024 N023 50m
L415 N024 N023 100m
L416 N024 N023 150m
L417 N024 N023 50m
L418 N024 N023 50m
L419 N024 N023 150m
L420 N024 N023 100m
R42 N023 N024 100
L421 N022 N023 100m
L422 N022 N023 200m
L423 N022 N023 150m
L424 N022 N023 50m
L425 N022 N023 100m
L426 N022 N023 150m
L427 N022 N023 50m
L428 N022 N023 50m
L429 N022 N023 150m
L430 N022 N023 100m
R43 N023 N022 100
L431 N022 N021 100m
L432 N022 N021 200m
L433 N022 N021 150m
L434 N022 N021 50m
L435 N022 N021 100m
L436 N022 N021 150m
L437 N022 N021 50m
L438 N022 N021 50m
L439 N022 N021 150m
L440 N022 N021 100m
R44 N021 N022 100
L441 N020 N021 100m
L442 N020 N021 200m
L443 N020 N021 150m
L444 N020 N021 50m
L445 N020 N021 100m
L446 N020 N021 150m
L447 N020 N021 50m
L448 N020 N021 50m
L449 N020 N021 150m
L450 N020 N021 100m
R45 N021 N020 100
L451 N020 N019 100m
L452 N020 N019 200m
L453 N020 N019 150m
L454 N020 N019 50m
L455 N020 N019 100m
L456 N020 N019 150m
L457 N020 N019 50m
L458 N020 N019 50m
L459 N020 N019 150m
L460 N020 N019 100m
R46 N019 N020 100
L461 N018 N019 100m
L462 N018 N019 200m
L463 N018 N019 150m
L464 N018 N019 50m
L465 N018 N019 100m
L466 N018 N019 150m
L467 N018 N019 50m
L468 N018 N019 50m
L469 N018 N019 150m
L470 N018 N019 100m
R47 N019 N018 100
L471 N018 N017 100m
L472 N018 N017 200m
L473 N018 N017 150m
L474 N018 N017 50m
L475 N018 N017 100m
L476 N018 N017 150m
L477 N018 N017 50m
L478 N018 N017 50m
L479 N018 N017 150m
L480 N018 N017 100m
R48 N017 N018 100
L481 N016 N017 100m
L482 N016 N017 200m
L483 N016 N017 150m
L484 N016 N017 50m
L485 N016 N017 100m
L486 N016 N017 150m
L487 N016 N017 50m
L488 N016 N017 50m
L489 N016 N017 150m
L490 N016 N017 100m
R49 N017 N016 100
L491 N016 N015 100m
L492 N016 N015 200m
L493 N016 N015 150m
L494 N016 N015 50m
L495 N016 N015 100m
L496 N016 N015 150m
L497 N016 N015 50m
L498 N016 N015 50m
L499 N016 N015 150m
L500 N016 N015 100m
R50 N015 N016 100
L501 N014 N015 100m
L502 N014 N015 200m
L503 N014 N015 150m
L504 N014 N015 50m
L505 N014 N015 100m
L506 N014 N015 150m
L507 N014 N015 50m
L508 N014 N015 50m
L509 N014 N015 150m
L510 N014 N015 100m
R51 N015 N014 100
L511 N014 N013 100m
L512 N014 N013 200m
L513 N014 N013 150m
L514 N014 N013 50m
L515 N014 N013 100m
L516 N014 N013 150m
L517 N014 N013 50m
L518 N014 N013 50m
L519 N014 N013 150m
L520 N014 N013 100m
R52 N013 N014 100
L521 N012 N013 100m
L522 N012 N013 200m
L523 N012 N013 150m
L524 N012 N013 50m
L525 N012 N013 100m
L526 N012 N013 150m
L527 N012 N013 50m
L528 N012 N013 50m
L529 N012 N013 150m
L530 N012 N013 100m
R53 N013 N012 100
L531 N012 N011 100m
L532 N012 N011 200m
L533 N012 N011 150m
L534 N012 N011 50m
L535 N012 N011 100m
L536 N012 N011 150m
L537 N012 N011 50m
L538 N012 N011 50m
L539 N012 N011 150m
L540 N012 N011 100m
R54 N011 N012 100
L541 N010 N011 100m
L542 N010 N011 200m
L543 N010 N011 150m
L544 N010 N011 50m
L545 N010 N011 100m
L546 N010 N011 150m
L547 N010 N011 50m
L548 N010 N011 50m
L549 N010 N011 150m
L550 N010 N011 100m
R55 N011 N010 100
L551 N010 N009 100m
L552 N010 N009 200m
L553 N010 N009 150m
L554 N010 N009 50m
L555 N010 N009 100m
L556 N010 N009 150m
L557 N010 N009 50m
L558 N010 N009 50m
L559 N010 N009 150m
L560 N010 N009 100m
R56 N009 N010 100
L561 N008 N009 100m
L562 N008 N009 200m
L563 N008 N009 150m
L564 N008 N009 50m
L565 N008 N009 100m
L566 N008 N009 150m
L567 N008 N009 50m
L568 N008 N009 50m
L569 N008 N009 150m
L570 N008 N009 100m
R57 N009 N008 100
L571 N008 N007 100m
L572 N008 N007 200m
L573 N008 N007 150m
L574 N008 N007 50m
L575 N008 N007 100m
L576 N008 N007 150m
L577 N008 N007 50m
L578 N008 N007 50m
L579 N008 N007 150m
L580 N008 N007 100m
R58 N007 N008 100
L581 N006 N007 100m
L582 N006 N007 200m
L583 N006 N007 150m
L584 N006 N007 50m
L585 N006 N007 100m
L586 N006 N007 150m
L587 N006 N007 50m
L588 N006 N007 50m
L589 N006 N007 150m
L590 N006 N007 100m
R59 N007 N006 100
L591 N006 N005 100m
L592 N006 N005 200m
L593 N006 N005 150m
L594 N006 N005 50m
L595 N006 N005 100m
L596 N006 N005 150m
L597 N006 N005 50m
L598 N006 N005 50m
L599 N006 N005 150m
L600 N006 N005 100m
R60 N005 N006 100
L601 N004 N005 100m
L602 N004 N005 200m
L603 N004 N005 150m
L604 N004 N005 50m
L605 N004 N005 100m
L606 N004 N005 150m
L607 N004 N005 50m
L608 N004 N005 50m
L609 N004 N005 150m
L610 N004 N005 100m
R61 N005 N004 100
L611 N004 N003 100m
L612 N004 N003 200m
L613 N004 N003 150m
L614 N004 N003 50m
L615 N004 N003 100m
L616 N004 N003 150m
L617 N004 N003 50m
L618 N004 N003 50m
L619 N004 N003 150m
L620 N004 N003 100m
R62 N003 N004 100
L621 N002 N003 100m
L622 N002 N003 200m
L623 N002 N003 150m
L624 N002 N003 50m
L625 N002 N003 100m
L626 N002 N003 150m
L627 N002 N003 50m
L628 N002 N003 50m
L629 N002 N003 150m
L630 N002 N003 100m
R63 N003 N002 100
L631 N002 N001 100m
L632 N002 N001 200m
L633 N002 N001 150m
L634 N002 N001 50m
L635 N002 N001 100m
L636 N002 N001 150m
L637 N002 N001 50m
L638 N002 N001 50m
L639 N002 N001 150m
L640 N002 N001 100m
R64 N001 N002 100
.tran 0 1ms 0 1us
.backanno
.end
